US09353083B2
778 mg (4 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 544 mg (4 mmol) of N-hydroxybenzotriazole are successively added to a solution of 1 g (3.36 mmol) of (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propanoic acid dissolved in 10 ml of N,N-dimethylformamide. After stirring for 15 minutes, 1.5 g (3.36 mmol) of 3-(4-benzyloxybutoxy)-3-o-tolylazetidine trifluoroacetate are added and stirring is continued for 15 minutes at room temperature. 2.34 ml (13.4 mmol) of N,N-diisopropylethylamine are added and the mixture is stirred at room temperature for 2 hours. Aqueous 1N sodium hydroxide solution is added and the reaction medium is extracted twice with ethyl acetate. The organic phase is then washed with aqueous 1N sodium hydroxide and then with aqueous 1N hydrochloric acid solution, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude residue obtained is purified by chromatography on silica gel eluted with a heptane/ethyl acetate mixture, the polarity being increased from 100/0 to 70/40. 1.14 g of tert-butyl [(R)-2-[3-(4-benzyloxybutoxy)-3-o-tolylazetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]carbamate are obtained in the form of a colourless resin, in a yield of 53%.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4 mmol, 778 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxybenzotriazole | 4 mmol, 544 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propanoic acid | 3.36 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
reactant | 3-(4-benzyloxybutoxy)-3-o-tolylazetidine trifluoroacetate | 3.36 mmol, 1.5 g | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OCCCCOC1(CNC1)C1=C(C=CC=C1)C
reactant | N,N-diisopropylethylamine | 13.4 mmol, 2.34 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl [(R)-2-[3-(4-benzyloxybutoxy)-3-o-tolylazetidin-1-yl]-1-(4-methoxybenzyl)-2-oxoethyl]carbamate | 1.14 g, yield of 53% | C(C1=CC=CC=C1)OCCCCOC1(CN(C1)C([C@@H](CC1=CC=C(C=C1)OC)NC(OC(C)(C)C)=O)=O)C1=C(C=CC=C1)C | C36H46N2O6
